US07115611B2
In analogy to the procedures described in example 101A], 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) was reacted with 5-chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 107D]) to give 2-methyl-2-{2-methyl-4-[4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-propionic acid ethyl ester, which was subsequently saponified in analogy to the procedure described in example 101B] to yield the title compound as off-white powder of mp. 149–151° C., dec.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 5-chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C13H7ClF6N2
product | 2-methyl-2-{2-methyl-4-[4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F)C)C)=O | C26H24F6N2O4
